US04675131
A fresh quantity of 66.3 g (0.6 mole) of 1-chloro-2,3-propanediol was added to the unpurified bis(2,3-dihydroxypropyl)-n-butylamine. These reagents were then brought to a temperature of 100° C. for 26 hours. Separation of the ammonium salt form was carried out in a methanolic medium with the aid of a cation exchange resin (Bio-Rad AG 50W-X8). In this way, 21.9 g of n-butyl-tris(2,3-dihydroxypropyl)ammonium chloride were obtained.

reactant | 1-chloro-2,3-propanediol | 0.6 mole, 66.3 g | ClCC(CO)O | C3H7ClO2
reactant | bis(2,3-dihydroxypropyl)-n-butylamine | OC(CN(CCCC)CC(CO)O)CO | C10H23NO4
product | n-butyl-tris(2,3-dihydroxypropyl)ammonium chloride | 21.9 g | [Cl-].C(CCC)[N+](CC(CO)O)(CC(CO)O)CC(CO)O | InChI=1S/C13H30NO6.ClH/c1-2-3-4-14(5-11(18)8-15,6-12(19)9-16)7-13(20)10-17;/h11-13,15-20H,2-10H2,1H3;1H/q+1;/p-1
